US08957064B2
5-(4-{4-[5-(4-chloropyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-2-cyclopropyl-6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
412 mg 4-Chloro-2-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 7.2 mL NMP. After addition of 0.28 mL triethylamine the reaction mixture is stirred for one hour. 600 mg 2-Cyclopropyl-4-[6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde (50% pure) and 0.09 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 191 mg (0.92 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for three days. After treatment of the reaction mixture with saturated NaHCO3 and stirring for one hour no solid precipitates. 200 mL tert.butyl-methylether are added and the mixture is stirred for one hour. After separation the organic phase is washed twice with water, dried and the solvent evaporated. Due to some remaining product in the aqueous phase this phase is extracted twice with tert.butyl-methylether (200 mL each). The combined organic phases are washed and dried. After removal of the solvent the residue is purified by chromatography on silica gel (dichloromethane/methanol). 134 mg (25.1%) of the pure product and additional 92.5 mg (18.2%) of the slightly contaminated product are obtained.

reactant | 4-Chloro-2-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine | 412 mg | ClC1=CC(=NC=C1)C=1NN=C(N1)C1CCNCC1 | C12H14ClN5
reactant | 2-Cyclopropyl-4-[6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde | 600 mg | C1(CC1)C1=C(C=O)C=CC(=C1)C1=NC=2N(C=C1C1=CC=C(C=C1)F)N=CN2 | C21H15FN4O
reactant | NaBH(OAc)3 | 0.92 mmol, 191 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 7.2 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.09 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.28 mL | C(C)N(CC)CC | C6H15N
product | 5-(4-{4-[5-(4-chloropyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-2-cyclopropyl-6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 134 mg, 25.1% | ClC1=CC(=NC=C1)C1=NC(=NN1)C1CCN(CC1)CC1=CC=C(C=C1)C1=NC=2N(C=C1C1=CC=C(C=C1)F)N=C(N2)C2CC2 | C33H29ClFN9
